US08530468B2
N4-(4-methoxybenzyl)-6-bromopyridine-3,4-diamine
Tin (II) chloride dihydrate (4.37 g, 19.4 mmol) was added portionwise to N-(4-methoxybenzyl)-2-bromo-5-nitropyridin-4-amine (1.31 g, 3.87 mmol) in absolute EtOH (10 mL) at room temperature. The mixture was then heated at 70° C. for 2 hours before being concentrated in vacuo. The residue was suspended in a mixture of ethyl acetate and saturated sodium bicarbonate solution and filtered. The insoluble solids were washed with EtOAc. The aqueous phase was re-extracted with ethyl acetate and the combined organic layers were washed with brine, dried (Na2SO4) and concentrated to give the title compound as a brown solid (1.05 g, 3.41 mmol, 88%). 1H NMR (d6-DMSO, 400 MHz) δ 7.40 (s, 1H), 7.30 (d, 2H, 8.6 Hz), 6.90 (d, 2H, 8.6 Hz), 6.45 (s, 1H), 6.3 (br t, 1H, 5.5 Hz), 4.85 (br s, 2H), 4.3 (d, 2H, 5.5 Hz), 3.75 (s, 3H). LCMS (1) Rt=1.77 min; m/z (ESI−) 306, 308; (ESI+) 308, 310.

reactant | Tin (II) chloride dihydrate | 19.4 mmol, 4.37 g | O.O.[Sn](Cl)Cl
reactant | N-(4-methoxybenzyl)-2-bromo-5-nitropyridin-4-amine | 3.87 mmol, 1.31 g | COC1=CC=C(CNC2=CC(=NC=C2[N+](=O)[O-])Br)C=C1 | C13H12BrN3O3
solvent | EtOH | 10 mL | CCO | C2H6O
product | N4-(4-methoxybenzyl)-6-bromopyridine-3,4-diamine | 3.41 mmol, 1.05 g, 88% | COC1=CC=C(CNC2=C(C=NC(=C2)Br)N)C=C1 | C13H14BrN3O
